US03931218
One-hundred-ninety grams of 2-(p-chlorobenzoyl)-N-[1,1-dimethyl-2-(p-toluenesulfonamido)ethyl]-N-ethyl benzamide and 400 ml. of 90% (v/v) sulfuric acid were mixed together and heated in a steam bath for 45 minutes. The solution was left at room temperature for 21 hours, then quenched with 3 volumes of ice water. The mixture was extracted with dichloromethane. The aqueous portion was cooled and made basic with 50% sodium hydroxide solution. The mixture was extracted with dichloromethane. This solvent was removed in vacuo. The residue crystallized on standing overnight. A portion was recrystallized from diethyl ether-hexane to obtain 4'-chloro-2-(1-ethyl-5,5-dimethyl-2-imidazolin-2-yl)benzophenone, m.p. 85°-87°C.

reactant | 2-(p-chlorobenzoyl)-N-[1,1-dimethyl-2-(p-toluenesulfonamido)ethyl]-N-ethyl benzamide | One-hundred-ninety grams | ClC1=CC=C(C(=O)C2=C(C(=O)N(CC)C(CNS(=O)(=O)C3=CC=C(C=C3)C)(C)C)C=CC=C2)C=C1 | C27H29ClN2O4S
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 4'-chloro-2-(1-ethyl-5,5-dimethyl-2-imidazolin-2-yl)benzophenone | ClC1=CC=C(C=C1)C(C1=C(C=CC=C1)C=1N(C(CN1)(C)C)CC)=O | C20H21ClN2O
